### PR TITLE
Add Erdős Problem 783 (small sieve by pairwise coprime moduli), link the formal proof

### LINKED ISSUE #942: Erdős Problem 783
### What is the conjecture

https://www.erdosproblems.com/783

  Fix some constant $C>0$ and let $n$ be large. Let $A\subseteq \\{2,\ldots,n\\}$ be such that $(a,b)=1$ for all $a\neq b\in A$ and $\sum_{n\in A}\frac{1}{n}\leq C$.

What choice of such an $A$ minimises the number of integers $m\leq n$ not divisible by any $a\in A$? Is this minimised by letting $n\geq q_1>q_2>\cdots$ be the consecutive primes in decreasing order and choosing $A=\\{q_1,\ldots,q_k\\}$ where $k$ is maximal such that 
$$\sum_{i=1}^k\frac{1}{q_i}\leq C?$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #942.

### What changed
Adds `FormalConjectures/ErdosProblems/783.lean`:
- `unsieved N A`, `IsAdmissible C N A` (pairwise coprime `A ⊆ {2, …, N}` with `∑ 1/a ≤ C`), `minUnsieved C N` (the finite minimum), and `IsDickman ρ` (continuous on `[0, ∞)`, `ρ = 1` on `[0, 1]`, `u ρ'(u) = -ρ(u - 1)` for `u > 1`; these conditions determine `ρ` uniquely, see the bridge).
- `erdos_783` (`research solved`): Tao's asymptotic resolution `minUnsieved C N / N → ρ(e^C)`.
- `variants.tao_lower_bound`: the uniform lower bound `(ρ(e^C) - ε) N < |unsieved N A|` for large `N`.
- `variants.hildebrand`: Hildebrand's prime-only lower bound [Hi87b] with `ρ(exp ∑ 1/p)`.
- `variants.prime_block` (`research open`, sorry'd): Erdős' original question whether the block of the largest primes with reciprocal sum `≤ C` is extremal.

The first three are linked to plby/lean-proofs `Erdos783.erdos_783`, `taoLowerBound_dickmanRho`, `primeOnlyLowerBound_dickmanRho` (Codex and GPT-5.6 Sol; 37 Mathlib-only files, including a construction of the Dickman function in `Erdos390/` and the Granville–Soundararajan/Hildebrand theory).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos783.erdos_783` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms. plby's `dickmanRho` (the Poisson–Dickman profile) satisfies `IsDickman`, and `IsDickman` determines the function on `[0, ∞)` (induction on unit intervals: the difference has zero derivative on `(n+1, n+2)`, hence is constant, hence zero by continuity):

<details>
<summary>Bridge</summary>

```lean
open Filter Real Topology Set

namespace Bridge783

/- ### The Dickman function -/

lemma dickmanRho_isDickman : Erdos783.IsDickman Erdos783Plby.dickmanRho := by
  refine ⟨?_, ?_, ?_⟩
  · refine (LipschitzOnWith.of_dist_le_mul (K := 1) fun u hu v hv => ?_).continuousOn
    simp only [Real.dist_eq, NNReal.coe_one, one_mul]
    exact Erdos390.abs_poissonDickmanProfile_sub_le hu hv
  · intro u hu
    exact Erdos390.poissonDickmanProfile_of_mem_unit hu.1 hu.2
  · intro u hu
    have h := (Erdos390.hasDerivAt_poissonDickmanTotalDensityReal hu).div_const
      Erdos390.poissonDickmanDensityNormalizerReal
    have hev : Erdos390.poissonDickmanProfile =ᶠ[𝓝 u] fun v =>
        Erdos390.poissonDickmanTotalDensityReal v /
          Erdos390.poissonDickmanDensityNormalizerReal := by
      filter_upwards [lt_mem_nhds hu] with v hv
      exact Erdos390.poissonDickmanProfile_of_ne_zero (by linarith)
    have h3 := h.congr_of_eventuallyEq hev
    show HasDerivAt Erdos390.poissonDickmanProfile
      (-Erdos390.poissonDickmanProfile (u - 1) / u) u
    refine h3.congr_deriv ?_
    rw [Erdos390.poissonDickmanProfile_of_ne_zero (by linarith : u - 1 ≠ 0)]
    ring

/-- The conditions in `IsDickman` determine the function on `[0, ∞)`. -/
lemma IsDickman.eqOn {ρ₁ ρ₂ : ℝ → ℝ} (h₁ : Erdos783.IsDickman ρ₁) (h₂ : Erdos783.IsDickman ρ₂)
    (u : ℝ) (hu : 0 ≤ u) : ρ₁ u = ρ₂ u := by
  obtain ⟨hc₁, hone₁, hd₁⟩ := h₁
  obtain ⟨hc₂, hone₂, hd₂⟩ := h₂
  set δ : ℝ → ℝ := fun u => ρ₁ u - ρ₂ u with hδ
  have hcδ : ContinuousOn δ (Ici 0) := hc₁.sub hc₂
  have hdδ : ∀ u > 1, HasDerivAt δ (-δ (u - 1) / u) u := fun u hu => by
    refine ((hd₁ u hu).sub (hd₂ u hu)).congr_deriv ?_
    show -ρ₁ (u - 1) / u - -ρ₂ (u - 1) / u = -(ρ₁ (u - 1) - ρ₂ (u - 1)) / u
    ring
  have key : ∀ n : ℕ, ∀ u ∈ Icc (0 : ℝ) (n + 1), δ u = 0 := by
    intro n
    induction n with
    | zero =>
      intro u hu
      simp only [Nat.cast_zero, zero_add] at hu
      simp only [hδ, hone₁ u hu, hone₂ u hu, sub_self]
    | succ n ih =>
      intro u hu
      push_cast at hu
      by_cases hu' : u ≤ n + 1
      · exact ih u ⟨hu.1, hu'⟩
      · push Not at hu'
        have hopen : IsOpen (Ioo ((n : ℝ) + 1) (n + 1 + 1)) := isOpen_Ioo
        have hdiff : DifferentiableOn ℝ δ (Ioo ((n : ℝ) + 1) (n + 1 + 1)) := fun v hv =>
          (hdδ v (by linarith [hv.1])).differentiableAt.differentiableWithinAt
        have hderiv : (Ioo ((n : ℝ) + 1) (n + 1 + 1)).EqOn (deriv δ) 0 := fun v hv => by
          rw [(hdδ v (by linarith [hv.1])).deriv,
            ih (v - 1) ⟨by linarith [hv.1], by linarith [hv.2]⟩]
          simp
        obtain ⟨c, hc⟩ :=
          hopen.exists_is_const_of_deriv_eq_zero isPreconnected_Ioo hdiff hderiv
        have hcl : (Icc ((n : ℝ) + 1) (n + 1 + 1)).EqOn δ (fun _ => c) := by
          refine Set.EqOn.of_subset_closure (fun v hv => hc v hv) (hcδ.mono ?_)
            continuousOn_const Ioo_subset_Icc_self ?_
          · intro v hv
            simp only [mem_Ici]
            linarith [hv.1]
          · rw [closure_Ioo (by linarith)]
        have h0 : δ ((n : ℝ) + 1) = c := hcl ⟨le_rfl, by linarith⟩
        have h0' : δ ((n : ℝ) + 1) = 0 := ih _ ⟨by positivity, le_rfl⟩
        have := hcl ⟨hu'.le, hu.2⟩
        simp only at this
        rw [this, ← h0, h0']
  have := key ⌈u⌉₊ u ⟨hu, by linarith [Nat.le_ceil u]⟩
  simpa [hδ, sub_eq_zero] using this

/- ### The finite optimisation problem -/

lemma unsieved_eq (N : ℕ) (A : Finset ℕ) :
    Erdos783.unsieved N A = Erdos783Plby.unsieved N A := rfl

lemma isAdmissible_iff (C : ℝ) (N : ℕ) (A : Finset ℕ) :
    Erdos783.IsAdmissible C N A ↔ Erdos783Plby.Admissible C N A := by
  unfold Erdos783.IsAdmissible Erdos783Plby.Admissible Erdos783Plby.PairwiseCoprime
    Erdos783Plby.reciprocalMass
  simp only [one_div]

lemma minUnsieved_eq (C : ℝ) (hC : 0 ≤ C) (N : ℕ) :
    Erdos783Plby.minimumDensity C N = (Erdos783.minUnsieved C N : ℝ) / N := by
  classical
  set S := Erdos783Plby.admissibleFamily C N with hS
  have hne : S.Nonempty := Erdos783Plby.admissibleFamily_nonempty hC N
  set s : Finset ℕ := S.image fun A => (Erdos783Plby.unsieved N A).card with hs
  have hsne : s.Nonempty := hne.image _
  have hmin : Erdos783.minUnsieved C N = s.min' hsne := by
    rw [← Finset.Nonempty.csInf_eq_min', Erdos783.minUnsieved]
    congr 1
    ext k
    simp only [mem_ofPred_eq, hs, Finset.coe_image, mem_image, Finset.mem_coe, hS,
      Erdos783Plby.mem_admissibleFamily, isAdmissible_iff, unsieved_eq]
    exact ⟨fun ⟨A, hA, hk⟩ => ⟨A, hA, hk.symm⟩, fun ⟨A, hA, hk⟩ => ⟨A, hA, hk.symm⟩⟩
  rw [hmin, Erdos783Plby.minimumDensity, dif_pos hC]
  apply le_antisymm
  · apply Finset.min'_le
    obtain ⟨A, hA, hAmin⟩ := Finset.mem_image.1 (s.min'_mem hsne)
    refine Finset.mem_image.2 ⟨A, hA, ?_⟩
    rw [Erdos783Plby.sieveDensity, ← hAmin]
  · apply Finset.le_min'
    intro y hy
    obtain ⟨A, hA, rfl⟩ := Finset.mem_image.1 hy
    rw [Erdos783Plby.sieveDensity]
    have : s.min' hsne ≤ (Erdos783Plby.unsieved N A).card :=
      Finset.min'_le _ _ (Finset.mem_image.2 ⟨A, hA, rfl⟩)
    exact div_le_div_of_nonneg_right (by exact_mod_cast this) (Nat.cast_nonneg N)

/- ### The statements -/

theorem erdos_783 (ρ : ℝ → ℝ) (hρ : Erdos783.IsDickman ρ) (C : ℝ) (hC : 0 < C) :
    Tendsto (fun N : ℕ ↦ (Erdos783.minUnsieved C N : ℝ) / N) atTop (𝓝 (ρ (exp C))) := by
  rw [IsDickman.eqOn hρ dickmanRho_isDickman (exp C) (exp_pos C).le]
  exact (Erdos783Plby.erdos_783 C hC).congr fun N => minUnsieved_eq C hC.le N

theorem tao_lower_bound (ρ : ℝ → ℝ) (hρ : Erdos783.IsDickman ρ) (C : ℝ) (hC : 0 < C)
    (ε : ℝ) (hε : 0 < ε) : ∀ᶠ N : ℕ in atTop, ∀ A : Finset ℕ, Erdos783.IsAdmissible C N A →
      (ρ (exp C) - ε) * N < (Erdos783.unsieved N A).card := by
  rw [IsDickman.eqOn hρ dickmanRho_isDickman (exp C) (exp_pos C).le]
  filter_upwards [Erdos783Plby.taoLowerBound_dickmanRho C hC ε hε, eventually_gt_atTop 0]
    with N hN hNpos
  intro A hA
  have := hN A ((isAdmissible_iff C N A).1 hA)
  rw [Erdos783Plby.sieveDensity, lt_div_iff₀ (by exact_mod_cast hNpos)] at this
  exact this

theorem hildebrand (ρ : ℝ → ℝ) (hρ : Erdos783.IsDickman ρ) (C : ℝ) (hC : 0 < C)
    (ε : ℝ) (hε : 0 < ε) : ∀ᶠ N : ℕ in atTop, ∀ P : Finset ℕ, Erdos783.IsAdmissible C N P →
      (∀ p ∈ P, p.Prime) →
        (ρ (exp (∑ p ∈ P, (1 / p : ℝ))) - ε) * N < (Erdos783.unsieved N P).card := by
  filter_upwards [Erdos783Plby.primeOnlyLowerBound_dickmanRho C hC ε hε, eventually_gt_atTop 0]
    with N hN hNpos
  intro P hP hprime
  have := hN P ((isAdmissible_iff C N P).1 hP) hprime
  rw [Erdos783Plby.sieveDensity, lt_div_iff₀ (by exact_mod_cast hNpos)] at this
  rw [IsDickman.eqOn hρ dickmanRho_isDickman _ (exp_pos _).le, unsieved_eq]
  have hsum : Erdos783Plby.reciprocalMass P = ∑ p ∈ P, (1 / p : ℝ) := by
    simp only [Erdos783Plby.reciprocalMass, one_div]
  rw [← hsum]
  exact this

end Bridge783
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«783»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/783.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+set `A ⊆ {2, …, N}` with reciprocal sum at most `C`. -/
+noncomputable def minUnsieved (C : ℝ) (N : ℕ) : ℕ :=
+  sInf {k | ∃ A, IsAdmissible C N A ∧ k = (unsieved N A).card}
+
+/-- `ρ` is the Dickman–de Bruijn function: it is continuous on `[0, ∞)`, equal to `1` on `[0, 1]`,
+and satisfies the delay differential equation `u ρ'(u) = -ρ(u - 1)` for `u > 1`. These conditions
+determine `ρ` uniquely on `[0, ∞)`. -/
+def IsDickman (ρ : ℝ → ℝ) : Prop :=
+  ContinuousOn ρ (Set.Ici 0) ∧ (∀ u ∈ Set.Icc (0 : ℝ) 1, ρ u = 1) ∧
+    ∀ u > 1, HasDerivAt ρ (-ρ (u - 1) / u) u
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/783.lean:59]: IsDickman (Dickman–de Bruijn function) belongs in NumberTheory/Dickman.lean in ForMathlib

File: FormalConjectures/ErdosProblems/783.lean [hunk 2]
```diff
@@ -0,0 +1,130 @@
...
+
+@[expose] public section
+
+open Filter Real Topology
+
+namespace Erdos783
+
+/-- The integers in `{1, …, N}` not divisible by any element of `A`. -/
+def unsieved (N : ℕ) (A : Finset ℕ) : Finset ℕ :=
+  (Finset.Icc 1 N).filter fun m ↦ ∀ a ∈ A, ¬ a ∣ m
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/783.lean:42]: unsieved overlaps 489.lean's sievedSet, could this be unified in FormalConjecturesForMathlib?
